US03998829
21-Acetoxymethyl-3α-hydroxy-5α-pregnane- 11,20-dione
21Hydroxymethyl-3α-tetrahydropyranyloxy-5α-pregnane-11,20- dione (600 mg) in anhydrous pyridine (12 ml) was treated with acetic anhydride (1.0 ml), and the solution was stirred at room temperature for 21/2 hours. The solution was partitioned between hydrochloric acid (2N, 100 ml) and ether/ethyl acetate 1/1, and the organic phase was washed with water, dried over sodium sulphate and evaporated to an oil (640 mg). The crude product (630 mg) was dissolved in I.M.S. (25 ml) and dilute hydrochloric acid (2N; 2.5 ml) was added. The solution was stirred at room temperature for 2 hours. The solution was neutralised with 10% potassium bicarbonate solution (5 ml) and concentrated by evaporation until an oily solid began to separate. The mixture was then diluted with water and extracted twice with ether/ethyl acetate 1/1. The combined organic extract was washed with water, dried over sodium sulphate and evaporated to a pale yellow oil (500 mg) which as purified by preparative t.l.c. in ethyl acetate/petrol 1/1. The main band, Rf 0.3 was separated to give 242 mg of solid which was recrystallized from ethyl acetate/petrol to give title compound (187 mg) as colourless plates, m.p. 113°-115°, [α]D + 103° (c 1.32).

reactant | 21Hydroxymethyl-3α-tetrahydropyranyloxy-5α-pregnane-11,20- dione | 600 mg | OCCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)OC1OCCCC1)=O | C27H42O5
reactant | acetic anhydride | 1.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 21-Acetoxymethyl-3α-hydroxy-5α-pregnane- 11,20-dione | 242 mg | C(C)(=O)OCCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C24H36O5
